US08193199B2
Prepared according to Procedure B using 2-(2-methoxyphenyl)-8-methylquinoline-3-carbaldehyde (0.250 g, 0.9 mmol), and sodium borohydride (0.0378 g, 1.35 mmol, 1.5 eq), in THF (5 mL). (2-(2-Methoxyphenyl)-8-methylquinolin-3-yl)-methanol was obtained as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.41 (1H, s), 7.92 (1H, d, J=7.8 Hz), 7.64 (1H, d, J=7.0 Hz), 7.50-7.59 (2H, m), 7.33 (1H, dd, J=7.4, 1.6 Hz), 7.22 (1H, d, J=7.8 Hz), 7.16 (1H, t, J=7.2 Hz), 5.37 (1H, t, J=5.5 Hz), 3.79 (3H, s), 2.72 (3H, s) Mass Spectrum (ESI) m/e=280.1 (M+1)

reactant | 2-(2-methoxyphenyl)-8-methylquinoline-3-carbaldehyde | 0.9 mmol, 0.250 g | COC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1C=O)C | C18H15NO2
reactant | sodium borohydride | 1.35 mmol, 0.0378 g, 1.5 eq | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-(2-Methoxyphenyl)-8-methylquinolin-3-yl)-methanol | COC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1CO)C | C18H17NO2
